US05659084
b) 7-chloro-1-phenylheptane
A solution of lithium tetrachlorocuprate [THF 33 L, lithium chloride (0.87 kg, 19.3 mol), cupric chloride (1.4 kg, 10.4 mol)] was added to a solution of benzylmagnesium chloride (160 L of 1.86M, 298 mol) in tetrahydrofuran at 15° C., and the mixture stirred for 30 min. Bromochlorohexane in toluene (85.5 kg of solution, 55% w/w by assay, 47.1 kg, 236 mol) was added over 3 h while maintaining the temperature between 15°-20° C. Stirring was continued for a further 1.25 h. 10% Ammonium chloride solution (263 L) was added over 1 h, maintaining the temperature below 30° C. The phases were separated and the organic phase further washed with ammonium chloride solution (170 L) and 20% sodium chloride solution (3×197 L). The organic solution was concentrated under vacuum to leave an oil (56.8 kg, 77% pure by HPLC assay, 88% corrected yield), which was distilled (b.p. 129°-132° C., 2 mbar) to yield the title compound (70%, 99% pure by GC assay).

reactant | benzylmagnesium chloride | 298 mol, 1.86M, 160 L | C(C1=CC=CC=C1)[Mg]Cl
reactant | Bromochlorohexane | BrC(CCCCC)Cl | C6H12BrCl
reactant | toluene | 236 mol, 85.5 kg | C1(=CC=CC=C1)C | C7H8
reactant | Ammonium chloride | 263 L | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-1-phenylheptane | ClCCCCCCCC1=CC=CC=C1 | C13H19Cl
